US07304081B2
Step 2. 1-(6-azetidin-1-ylpyridin-3-yl)cyclopropanecarbonitrile
To a solution of 1-(6-chloropyridin-3-yl)cyclopropanecarbonitrile (200.0 mg, 0.001120 mol) in 1,4-dioxane (8.00 mL, 0.102 mol) at rt were added azetidine hydrochloride (128.3 mg, 0.001344 mol), palladium acetate (25.2 mg, 0.000112 mol), and sodium tert-butoxide (288 mg, 0.00291 mol). The reaction mixture was degassed and then microwave irradiated at 150° C. for 40 min. The reaction mixture was quenched with water and extracted with ethyl acetate and dichloromethane. The crude product was purified by combiflash. LCMS: m/z 200.2 (M+H)+.

reactant | 1-(6-chloropyridin-3-yl)cyclopropanecarbonitrile | 0.001120 mol, 200.0 mg | ClC1=CC=C(C=N1)C1(CC1)C#N | C9H7ClN2
reactant | 1,4-dioxane | 0.102 mol, 8.00 mL | O1CCOCC1 | C4H8O2
reactant | azetidine hydrochloride | 0.001344 mol, 128.3 mg | Cl.N1CCC1
reactant | sodium tert-butoxide | 0.00291 mol, 288 mg | CC(C)([O-])C.[Na+]
catalyst | palladium acetate | 0.000112 mol, 25.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(6-azetidin-1-ylpyridin-3-yl)cyclopropanecarbonitrile | N1(CCC1)C1=CC=C(C=N1)C1(CC1)C#N | C12H13N3
